** sch_path: /foss/designs/pixel/TG.sch
.subckt TG In SW SWP VDD GND Out
*.PININFO In:B Out:B SW:B GND:B VDD:B SWB:B
M1 In SW Out GND nfet_03v3 L=1u W=1u nf=1 m=1
M2 Out SWB In VDD pfet_03v3 L=1u W=2u nf=1 m=1
.ends
